US08865736B2
4-(4-Methoxy-phenyl)-2-methyl-thiazole-5-carbonitrile
To a solution of 5-Bromo-4-(4-methoxy-phenyl)-2-methyl-thiazole (2.0 g, 7.0 mmol) in 15 ml of pyridine was added CuCN (3.10 g, 35.2 mmol) and the reaction mixture was heated to 150° C. in microwave for 2 h. After the completion of the reaction pH was adjusted to 3-4 with 1 N HCl solution and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (60-120 M, 12% EtOAc-Hexane) to get the desired product (1.5 g, 92%) as a white solid.

reactant | 5-Bromo-4-(4-methoxy-phenyl)-2-methyl-thiazole | 7.0 mmol, 2.0 g | BrC1=C(N=C(S1)C)C1=CC=C(C=C1)OC | C11H10BrNOS
reactant | CuCN | 35.2 mmol, 3.10 g | C(#N)[Cu]
reactant | HCl | 1 N | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-Methoxy-phenyl)-2-methyl-thiazole-5-carbonitrile | 1.5 g, 92% | COC1=CC=C(C=C1)C=1N=C(SC1C#N)C | C12H10N2OS
